US04271167
A solution of potassium borohydride (8.35 g) in distilled water (95 cc) is added, at a maximum of 30° C., to a suspension of 3-(5-chloropyrid-2-yl)-4-hydroxythiazolidine-2-thione (38.0 g) in acetonitrile (380 cc). The reaction is allowed to proceed for 30 minutes at between 25° and 30° C. A 3 N aqueous solution of hydrochloric acid (51 cc) is added at a maximum of 20° C. The acetonitrile is evaporated off under reduced pressure (20 mm Hg) at 45° C. The resulting crystals are filtered off, washed with acetonitrile (B 15 cc) and isopropyl ether (25 cc) and then 4 times with distilled water (250 cc in total) and dried in air at 20° C. The resulting product (23.7 g; m.p.=100° C.) is suspended in chloroform (480 cc). The suspension is chromatographed on silica (0.2-0.5 mm) (240 g) contained in a column of diameter 3.8 cm. Elution is carried out with chloroform (400 cc) and then with a mixture of chloroform (1,380 cc) and methanol (35 cc), this eluate being discarded. Elution is continued with a mixture of chloroform (720 cc) and methanol (80 cc), this eluate being collected and evaporated to dryness under reduced pressure (20 mm Hg) at 45° C. The resulting crystals are washed with isopropyl ether (60 cc) and then with ice-cooled acetonitrile (10 cc) and dried under reduced pressure (0.2 mm Hg) at 45° C. 2-Hydroxyethyl 5-chloropyrid-2-yldithiocarbamate (18.5 g), which melts at 108° C., is thus obtained.

reactant | potassium borohydride | 8.35 g | [BH4-].[K+]
reactant | 3-(5-chloropyrid-2-yl)-4-hydroxythiazolidine-2-thione | 38.0 g | ClC=1C=CC(=NC1)N1C(SCC1O)=S | C8H7ClN2OS2
reactant | hydrochloric acid | 51 cc | Cl | ClH
solvent | water | 95 cc | O | H2O
solvent | acetonitrile | 380 cc | C(C)#N | C2H3N
product | 2-Hydroxyethyl 5-chloropyrid-2-yldithiocarbamate | 18.5 g | ClC=1C=CC(=NC1)NC(SCCO)=S | C8H9ClN2OS2
